US08258323B2
6-Fluoro-3,4-dihydro-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2H-chromene (40 mg, 0.16 mmol, diastereomeric ratio 75:25) was dissolved in acetic acid (2 ml) and demi water (0.7 ml). The reaction mixture was stirred vigorously and heated to 65° C. After 3 h at 65° C. the reaction mixture was cooled to 25° C. The solution was then concentrated in vacuo at 35° C. to obtain (R)-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)-ethane-1,2-diol as a a vetrous oil (89% yield, diastereomeric ratio 73:27).

reactant | 6-Fluoro-3,4-dihydro-2-((R)-2,2-dimethyl-1,3-dioxolan-4-yl)-2H-chromene | 0.16 mmol, 40 mg | FC=1C=C2CCC(OC2=CC1)[C@@H]1OC(OC1)(C)C | C14H17FO3
reactant | water | 0.7 ml | O | H2O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(6-fluoro-3,4-dihydro-2H-chromen-2-yl)-ethane-1,2-diol | 89% yield | FC=1C=C2CCC(OC2=CC1)[C@@H](CO)O | C11H13FO3
